US06806265B2
b) 4-(4-Hydroxyphenyl)pyridine
A solution 4-[4-(phenylmethoxy)phenyl]pyridine (120 mg, 0.46 mmol), Pd(OH)2/C (20% w/w, 10 mg) and aqueous 1.0 M HCl solution (0.5 mL) in MeOH (20 mL) was stirred under a hydrogen atmosphere (50 psi) for 17 h at 25° C. The catalyst was removed by filtration, Et3N (0.1 mL) was added and the filtrate was concentrated under reduced pressure. The residue was treated with hot THF. The resulting suspension was filtered and the filtrate concentrated under reduced pressure to give the title compound (69 mg, 88% yield) as a beige solid.

reactant | 4-[4-(phenylmethoxy)phenyl]pyridine | 0.46 mmol, 120 mg | C1(=CC=CC=C1)COC1=CC=C(C=C1)C1=CC=NC=C1 | C18H15NO
reactant | HCl | 1.0 M, 0.5 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd(OH)2/C | 10 mg | [OH-].[OH-].[Pd+2]
product | 4-(4-Hydroxyphenyl)pyridine | 69 mg, 88% yield | OC1=CC=C(C=C1)C1=CC=NC=C1 | C11H9NO
